US06794397B2
6-Chloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4-methoxy-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.13 (s, 1H), 9.01 (d, J=2.7, 1H), 8.83 (d, J=9.3, 1H), 8.24-8.20 (m, 1H), 7.76 (d, J=2.7, 1H), 7.52 (d, J=8.7, 1H), 7.35-7.31 (m, 1H), 3.90 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | 6-Chloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C13H10ClN3O4
